US07300931B2
Synthesis of (2-Fluoro-biphenyl-4-yl)-acetic acid:
(2-Fluoro-biphenyl-4-yl)-methanol (0.75 gm, 3.7 mmole) was dissolved in 20 ml DCM, cooled using ice/methanol, triethylamine (0.55 ml, 4.0 mmole) was added followed by methanesulfonylchloride (0.3 ml, 4.0 mmole) added drop wise over 5 minutes. The reaction was allowed to stir at room temperature till the TLC indicated consumption of the starting material (2 hrs), after completion of the reaction, the reaction mixture was washed with water, saturated NaHCO3 solution, and saturated NaCl solution, dried using Na2SO4 and evaporated to produce yellow oil, the oil produced was dissolved in 25 ml of 70% ethanol, KCN (0.4 gm, 6 mmole) was then added and it was heated under reflux overnight. Ethanol was evaporated; solid was washed with 50 ml water and filtered. The solid was dissolved in 20 ml of ethanol, then 20 ml of conc. H2SO4 was added, and was refluxed overnight; the solution was allowed to cool to room temperature, poured to 200 ml of crushed ice, the solid was collected by vacuum filtration, suspended in 25 ml of NaOH 30%, heated at reflux temperature for 24 hrs, cooled to room temperature, washed with DCM and ethyl acetate. The aqueous layer was acidified with conc. HCl, extracted with ethyl acetate, evaporated; the residue was crystallized from isopropanol-water to give white solid (0.15 gm, 18% in 3 steps) H1-NMR INOVA-500 (DMSO d6) δ 3.672 (s, 2H), 7.191-7.254 (m, 2H), 7.389-7.560 (m, 6H), 12.494 (s, 1H).

reactant | (2-Fluoro-biphenyl-4-yl)-methanol | 3.7 mmole, 0.75 gm | FC1=C(C=CC(=C1)CO)C1=CC=CC=C1 | C13H11FO
reactant | triethylamine | 4.0 mmole, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 4.0 mmole, 0.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | KCN | 6 mmole, 0.4 gm | [C-]#N.[K+]
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DMSO | CS(=O)C | C2H6OS
product | (2-Fluoro-biphenyl-4-yl)-acetic acid | FC1=C(C=CC(=C1)CC(=O)O)C1=CC=CC=C1 | C14H11FO2
